US08748624B2
STEP A: 2′,4′-dichloro-[1,1′-biphenyl]-4-amine
4-Iodoaniline (10.0 g, 45.7 mmol), (2,4-dichlorophenyl)boronic acid (10.5 g, 54.8 mmol), Pd(dppf)Cl2 (3.7 g, 4.6 mmol), and K2CO3 (12.6 g, 91.3 mmol) were dissolved in 1,4-dioxane (200 mL) and water (50 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | 4-Iodoaniline | 45.7 mmol, 10.0 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | (2,4-dichlorophenyl)boronic acid | 54.8 mmol, 10.5 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 91.3 mmol, 12.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 4.6 mmol, 3.7 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2′,4′-dichloro-[1,1′-biphenyl]-4-amine | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)N | C12H9Cl2N
